data/mechanisms/records/IMS8-EQ8.124.json
{"mechanism_id": "IMS8-EQ8.124", "species": [{"species_id": "protonated_nitrobenzene", "mapped_smiles": "[C:1]1([N+:7](=[O:9])[O:8][1H:10])=[CH:2][CH:3]=[CH:4][CH:5]=[CH:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_phenyl_nitrite", "mapped_smiles": "[C:1]1([O+:8]([1H:10])[N:7]=[O:9])=[CH:2][CH:3]=[CH:4][CH:5]=[CH:6]1", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "phenol_radical_cation", "mapped_smiles": "[C:1]1([O+:8][1H:10])=[CH:2][CH:3]=[CH:4][CH:5]=[CH:6]1", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "nitric_oxide", "mapped_smiles": "[N:7]=[O:9]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_nitrobenzene"]}, {"state_id": "state_nitrite", "species_ids": ["protonated_phenyl_nitrite"]}, {"state_id": "state_products", "species_ids": ["phenol_radical_cation", "nitric_oxide"]}], "steps": [{"step_id": "step_phenyl_migration", "from_state": "state_precursor", "to_state": "state_nitrite", "step_class": "phenyl_migration", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "lone_pair", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "lone_pair", "atom_maps": [7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_no_loss", "from_state": "state_nitrite", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rph_8_124", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_phenyl_migration", "support_type": "textbook_proposed", "locator": {"page": 221, "equation": "8.124", "figure": null, "panel": "first arrow, labelled 'r Ph' (italic r)", "section": "8.11 Elimination of small stable species"}, "confidence": 0.8, "curator_note": "SUBSTRATE IDENTIFIED BY THE TEXT, NOT GUESSED: the facing page (p. 220) ends '... Loss of NO may also occur from aromatic EE+ ions, such as protonated nitrobenzene (Crombie and Harrison 1988; Equation 8.124).' The drawing matches: a benzene ring bonded to N, the N carrying a doubly bonded O below it and, up to the right, an O drawn with '+' above it and an H, i.e. protonated nitrobenzene written in the pentavalent-nitrogen form C6H5-N(=O)=O(+)H. The arrow is labelled 'r Ph' (rearrangement by phenyl migration) and the product it points to is protonated phenyl nitrite: the ring now bonded to an O that carries '+', an H below it and -NO to its right. ARC COUNT (convention D): Book draws 1 arc, and it is FULL-barbed (a solid triangular head, hence a two-electron arrow): a short straight arrow whose tail sits on the C(ipso)-N bond and whose head points up and to the right, at the +OH oxygen. That single drawn arc is the migration itself. Move <2> is the one that corresponds to it (the C-N bonding pair leaving the C-N bond); move <1> is IMPLICIT and not drawn on the page. HONEST NOTE ON WHY THE ENCODING IS NOT A LITERAL TRANSCRIPTION OF THAT ONE ARC: read literally as 'C-N pair -> C-O bond', the drawn arc is not electron-balanced in the charge-separated Lewis structure RDKit requires - it would leave nitrogen at formal +2 and oxygen at -1. In the book's own pentavalent-nitrogen drawing the arc does balance, but only because a second, undrawn arc is implied there too (the N=O(+)H pi pair dropping onto nitrogen). The encoding used here keeps both bond changes explicit: an oxygen lone pair forms the new C-O bond (move <1>) while the C-N bonding pair becomes a nitrogen lone pair (move <2>), which is the same net 1,2-aryl shift. LOCALIZATION (conventions B/C): the book puts '+' on the hydroxyl oxygen and draws nitrogen with five bonds; RDKit rejects a neutral pentavalent nitrogen and silently renormalizes any attempt at it into [N+](=[OH+])[O-], so this record uses the ordinary charge-separated resonance form C6H5-[N+](=O)-OH (charge on nitrogen) for the precursor. That is the same species; only the resonance form differs, and the difference is disclosed here rather than hidden. For the product the book's localization IS reproduced exactly: the charge sits on the oxygen that now carries both the phenyl and the hydrogen. ARROW-CHECK NOTE: this step's two moves are two-electron moves into and out of non-bonding orbitals, so the bookkeeping emits the expected soft 'consistent with a lone pair rather than radicals' advisories on atoms 7 and 8."}, {"evidence_id": "ev_step_i_8_124", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_no_loss", "support_type": "textbook_proposed", "locator": {"page": 221, "equation": "8.124", "figure": null, "panel": "second arrow, labelled 'i' (italic)", "section": "8.11 Elimination of small stable species"}, "confidence": 0.8, "curator_note": "Equation 8.124, SECOND arrow, labelled with an italic 'i' (McLafferty's symbol for charge-site-induced, inductive cleavage), pointing at two printed products: a benzene ring bearing 'OH' with '+.' written above that oxygen and, after the plus sign, 'NO.'. So the O-N bond of the protonated phenyl nitrite is cleaved and the charge stays with the phenol. ARC COUNT (convention D): Book draws 0 arc(s) for this step - the middle structure carries no curly arrows at all; both moves <1,2> are curator-supplied. TENSION WITH THE 'i' LABEL, DISCLOSED: a strictly inductive (heterolytic) cleavage of an even-electron ion would send the O-N bonding pair to one fragment and give a closed-shell cation, e.g. neutral C6H5OH plus NO+. The products the book actually DRAWS are an odd-electron phenol radical cation and an NO radical, which can only arise by HOMOLYSIS of the O-N bond, so that is what is encoded: one fishhook leaves an electron on nitrogen (giving NO.) and the other leaves an electron on oxygen (giving the phenol radical cation whose '+.' the book prints on that very oxygen). This is the even-electron-rule violation the facing-page text describes when it says 'Loss of NO may also occur from aromatic EE+ ions'; the driving force it gives is 'the much-higher resonance stabilization of ArO+ than of Ar+' together with 'the large enthalpic advantage of ~2 eV for the rearrangement loss of NO vs. simple cleavage loss of NO2'. step_class is kept as 'inductive_cleavage' because that is the book's own label for the arrow."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 124.0388, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_94", "species_id": "phenol_radical_cation", "step_id": "step_no_loss", "observed_mz": 94.0408, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
